US07105567B2
By the reaction and treatment in the same manner as in Preparation Example 1 using piperonal (4.5 g) and 4-isopropylaniline (4.0 g) as starting materials, (benzo[d]1,3-dioxolen-5-ylmethyl)(4-isopropylphenyl)amine (6.1 g) was obtained.

reactant | piperonal | 4.5 g | C1=CC2=C(C=C1C=O)OCO2 | C8H6O3
reactant | 4-isopropylaniline | 4.0 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
product | (benzo[d]1,3-dioxolen-5-ylmethyl)(4-isopropylphenyl)amine | 6.1 g | O1COC2=C1C=CC(=C2)CNC2=CC=C(C=C2)C(C)C | C17H19NO2
